US04528382
N-Cyclohexyl 4-Chlorobenzimidoyl Chloride
N-Cyclohexyl 4-chlorobenzamide (12.8 g, 53.9 mmole) and thionyl chloride (43.14 g, 363 mmole) were heated at reflux with stirring for 1.75 hours. Excess thionyl chloride was removed by distillation. The title compound was isolated by distillation (b.p. 130° C. at ~15 mm Hg) to yield 7.4 g (54%) of a clear colorless liquid which crystallized upon cooling.

reactant | N-Cyclohexyl 4-chlorobenzamide | 53.9 mmole, 12.8 g | C1(CCCCC1)NC(C1=CC=C(C=C1)Cl)=O | C13H16ClNO
reactant | thionyl chloride | 363 mmole, 43.14 g | S(=O)(Cl)Cl | Cl2OS
product | N-Cyclohexyl 4-Chlorobenzimidoyl Chloride | C1(CCCCC1)N=C(C1=CC=C(C=C1)Cl)Cl | C13H15Cl2N
